US07666888B2
2-(1-{[5-(2-Chlorophenyl)isoxazol-4-yl]carbonyl}piperidin-3-yl)propan-2-ol
The title compound was prepared from 5-(2-chlorophenyl)isoxazole-4-carboxylic acid (11.2 mg, 0.050 mmol) and dimethyl-3-piperidylmethanol (10.8 mg, 0.060 mmol) as described in synthetic method C and thereafter purified by preparative HPLC method B to give a solid (5.7 mg). Calcd for C18H21ClN2O3: 348.1241, found 348.1236.

reactant | 5-(2-chlorophenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 11.2 mg | ClC1=C(C=CC=C1)C1=C(C=NO1)C(=O)O | C10H6ClNO3
reactant | dimethyl-3-piperidylmethanol | 0.060 mmol, 10.8 mg | CC(O)(C1CNCCC1)C | C8H17NO
product | 2-(1-{[5-(2-Chlorophenyl)isoxazol-4-yl]carbonyl}piperidin-3-yl)propan-2-ol | ClC1=C(C=CC=C1)C1=C(C=NO1)C(=O)N1CC(CCC1)C(C)(C)O | C18H21ClN2O3
